US06855840B2
Sodium 2-(2-bromopropionylamino)-ethanesulfonate
25.6 g of taurine (204 mmol) and 16.38 g of NaOH (409 mmol) were dissolved in 20 ml of deionized water. 2-Bromopropionyl bromide (44 g, 21.36 ml, 204 mmol) dissolved in 50 ml of dichloromethane was then added to the solution drop wise at 0° C. over 30 minutes. During the addition, a large amount of solid was produced. The reaction flask was manually agitated to thoroughly mix the compounds until no more exotherm was observed with additional agitation. The reaction mixture was then allowed to sit for 1 hour. The solid was filtered and washed with a small amount of absolute ethanol and then ethyl ether and then dried in vacuo. The compound can be used in this state or recrystallized from methanol.

reactant | taurine | 204 mmol, 25.6 g | NCCS(=O)(=O)O | C2H7NO3S
reactant | NaOH | 409 mmol, 16.38 g | [OH-].[Na+]
reactant | 2-Bromopropionyl bromide | 204 mmol, 21.36 ml, 44 g | BrC(C(=O)Br)C | C3H4Br2O
solvent | water | 20 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Sodium 2-(2-bromopropionylamino)-ethanesulfonate | BrC(C(=O)NCCS(=O)(=O)[O-])C.[Na+] | InChI=1S/C5H10BrNO4S.Na/c1-4(6)5(8)7-2-3-12(9,10)11;/h4H,2-3H2,1H3,(H,7,8)(H,9,10,11);/q;+1/p-1
